US07855218B2
Description 64: Methyl (2S)-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-4-pentynoate (D64)
Thionylchloride (16 ml, 26 g, 221 mmol) was added dropwise to a cooled (0° C.) solution of (2S)-2-amino-4-pentynoic acid (5.0 g, 44.18 mmol, commercially) in methanol (dry, 100 ml). After stirring the mixture at room temperature for 5.5 hrs the solvent was evaporated and the residue was taken up in 1,4-dioxane (100 ml) and aqueous saturated NaHCO3 solution (50 ml). Then BOC2O (10.1 g, 46.4 mmol) was added and the mixture was stirred overnight at room temperature. Ethyl acetate and aqueous NaHCO3 solution were added. The separated organic layer was washed with bicarbonate solution, dried (Na2SO4), filtrated and evaporated. The resulting crude material was purified by chromatography on silica gel using ethyl acetate/cyclohexanes (1:100 to 3:7) to afford the title compound (7.35 g, 73%); MS: (ES/+) m/z: 250 [MNa]+, C11H17NO4 requires 227. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 7.3 (d, 1H), 4.1 (m, 1H), 2.9 (s, 1H), 2.6-2.5 (m, 2H), 1.4 (s, 9H).

reactant | Thionylchloride | 221 mmol, 16 ml, 26 g | S(=O)(Cl)Cl | Cl2OS
reactant | (2S)-2-amino-4-pentynoic acid | N[C@H](C(=O)O)CC#C | C5H7NO2
reactant | BOC2O | 46.4 mmol, 10.1 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl (2S)-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-4-pentynoate | 7.35 g, 73% | CC(C)(C)OC(=O)N[C@H](C(=O)OC)CC#C | C11H17NO4
